** sch_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/dff/schematic/dff.sch
**.subckt dff vss clk out rst in nclk vdd
*.iopin vss
*.iopin in
*.iopin vdd
*.iopin out
*.iopin rst
*.iopin clk
*.iopin nclk
x1 in vdd nclk net1 vss clk transmissiongate
x2 vdd rst net2 net3 vss norgate
x5 vdd net2 net1 vss inverter
x7 net3 vdd clk net1 vss nclk transmissiongate
x3 net3 vdd clk net4 vss nclk transmissiongate
x4 vdd rst net5 out vss norgate
x6 vdd net5 net4 vss inverter
x8 out vdd nclk net4 vss clk transmissiongate
**.ends

* expanding   symbol:  blocks/transmissiongate/schematic/transmissiongate.sym # of pins=6
** sym_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/transmissiongate/schematic/transmissiongate.sym
** sch_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/transmissiongate/schematic/transmissiongate.sch
.subckt transmissiongate in vdd noten out vss en
*.iopin noten
*.iopin en
*.iopin in
*.iopin out
*.iopin vdd
*.iopin vss
XM1 out noten in vdd sg13_lv_pmos w=1.5u l=0.15u ng=1
XM2 out en in vss sg13_lv_nmos w=0.75u l=0.15u ng=1
.ends


* expanding   symbol:  blocks/norgate/schematic/norgate.sym # of pins=5
** sym_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/norgate/schematic/norgate.sym
** sch_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/norgate/schematic/norgate.sch
.subckt norgate vdd a b out vss
*.iopin vdd
*.iopin vss
*.iopin b
*.iopin a
*.iopin out
XM1 out a vss vss sg13_lv_nmos w=0.75u l=0.15u ng=1
XM4 out a net1 vdd sg13_lv_pmos w=3u l=0.15u ng=1
XM3 out b vss vss sg13_lv_nmos w=0.75u l=0.15u ng=1
XM5 net1 b vdd vdd sg13_lv_pmos w=3u l=0.15u ng=1
.ends


* expanding   symbol:  blocks/inverter/schematic/inverter.sym # of pins=4
** sym_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/inverter/schematic/inverter.sym
** sch_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/inverter/schematic/inverter.sch
.subckt inverter vdd out in vss
*.iopin vdd
*.iopin out
*.iopin vss
*.iopin in
XM1 out in vss vss sg13_lv_nmos w=0.75u l=0.15u ng=1
XM2 out in vdd vdd sg13_lv_pmos w=1.5u l=0.15u ng=1
.ends

.end
